US04382929
5-Methyl-4-(dimethylaminomethyl)-2-thiophenemethanol N,N,3-trimethyl-3-thiophene carboxamide
A mixture of 2-methyl-3-thiophene carboxylic acid (2 g) and oxalyl chloride (2 ml) in dry toluene (20 ml) was heated under reflux and was treated with pyridine (0.05 ml). The reaction mixture was heated at reflux for 1 h, cooled and partially evaporated. The residue was added to a solution of dimethylamine in toluene at 0° to 5° C. After 2 hours water and diethyl ether were added. The organic phase was washed with dilute hydrochloric acid, sodium hydroxide and water, dried and evaporated to an oil which was distilled to give the title compound (1.4 g) as a colourless oil b.p. 100°/0.1 mm.

reactant | 2-methyl-3-thiophene carboxylic acid | 2 g | CC=1SC=CC1C(=O)O | C6H6O2S
reactant | oxalyl chloride | 2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 0.05 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-4-(dimethylaminomethyl)-2-thiophenemethanol N,N,3-trimethyl-3-thiophene carboxamide | 1.4 g | CN(C(=O)C1(CSC=C1)C)C.CC1=C(C=C(S1)CO)CN(C)C | InChI=1S/C9H15NOS.C8H13NOS/c1-7-8(5-10(2)3)4-9(6-11)12-7;1-8(4-5-11-6-8)7(10)9(2)3/h4,11H,5-6H2,1-3H3;4-5H,6H2,1-3H3
